US05712267
37(i) (2S,4S)-2-(3-Hydroxymethyl-1-piperazinylcarbonyl)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
Following a procedure similar to that described in Preparation 8, but using 10.0 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid, 4.4 g of N,N'-carbonyldiimidazole and 4.0 g of 2-hydroxymethylpiperazine, 6.9 g of the title compound were obtained, as a powder.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 10.0 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | 2-hydroxymethylpiperazine | 4.0 g | OCC1NCCNC1 | C5H12N2O
product | (2S,4S)-2-(3-Hydroxymethyl-1-piperazinylcarbonyl)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 6.9 g | OCC1CN(CCN1)C(=O)[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C26H32N4O7S
